US07625889B2
Step 2: N′-[5-(1H-Indol-5-yl)-pyridin-3-ylmethyl]-N,N-dimethyl-ethane-1,2-diamine:
Sodium triacetoxyborohydride (855 mg, 4.05 mmol) and then enough acetic acid to bring the pH to 5 were added to a solution of 5-(1H-indol-5-yl)-pyridine-3-carbaldehyde (300 mg, 1.35 mmol) and N,N-dimethylethylene diamine (237 mg, 2.7 mmol) in 15 mL of 1,2-dichloroethane. The mixture was stirred at ambient temperature for 48 h, and then the volatiles were removed in the presence of celite. The product was eluted from the celite through silica gel (elution with methanol/dichloromethane) to give 328 mg of product. LC/MS: Retention time, 0.43 min; (M+H)=295.19.

reactant | Sodium triacetoxyborohydride | 4.05 mmol, 855 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 5-(1H-indol-5-yl)-pyridine-3-carbaldehyde | 1.35 mmol, 300 mg | N1C=CC2=CC(=CC=C12)C=1C=C(C=NC1)C=O | C14H10N2O
reactant | N,N-dimethylethylene diamine | 2.7 mmol, 237 mg | CN(CCN)C | C4H12N2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | N′-[5-(1H-Indol-5-yl)-pyridin-3-ylmethyl]-N,N-dimethyl-ethane-1,2-diamine | 328 mg | N1C=CC2=CC(=CC=C12)C=1C=C(C=NC1)CNCCN(C)C | C18H22N4
